Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Previable Premature Rupture of Membranes 
 
Major Surgical or Invasive Procedure:
dilation and evacuation
 
History of Present Illness:
___ yo G7P3 at 16w0d by early ultrasound presenting with gush of 
fluid and small amount of vaginal bleeding. She reports small 
amount of cramping earlier, but none now. She is having 
continued small amount of leaking. She denies fevers, chills, 
nausea, vomiting, urinary symptoms, abnormal vaginal
discharge. No trauma or drug use. No chest pain/SOB.
 
Past Medical History:
PNC:
 - ___ ___ by early ultrasound
 - Labs Rh pos/Abs neg/Rub I/RPR NR/HBsAg neg/HIV neg/GBS unk
 - Screening: NIPT LR

OBHx: G7P3
- 3 term SVDs, largest 6lb4oz
- 2 TABs
- 1 16wk SAB due to cervical dilation, "fetus coming into 
vagina," s/p IOL
 
GynHx:
- History of abnormal paps, last ___ normal
- No history fibroids, STIs

PMH: 
- Hypothyroidism
- Depression
 
PSH:
- D&C x2 

 
Social History:
History of DV in prior relationship. Currently married to new 
partner, feels safe and well-supported in this relationship. No 
smoking, alcohol, other drugs during pregnancy. Works ___ and ___.
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding
Ext: no TTP
 
Pertinent Results:
LABS:
====
___ 01:31AM URINE  HOURS-RANDOM
___ 01:31AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:31AM   WBC-7.5 RBC-4.30 HGB-12.0 HCT-37.0 MCV-86 
MCH-27.9 MCHC-32.4 RDW-14.4 RDWSD-45.0
___ 01:31AM   NEUTS-73.2* LYMPHS-18.3* MONOS-7.4 EOS-0.4* 
BASOS-0.3 IM ___ AbsNeut-5.51 AbsLymp-1.38 AbsMono-0.56 
AbsEos-0.03* AbsBaso-0.02
___ 01:31AM   PLT COUNT-183
___ 01:31AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:31AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:31AM URINE  RBC-2 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 01:31AM URINE  HYALINE-1*
___ 01:31AM URINE  MUCOUS-MOD

MICROBIOLOGY:
============
___
- UCx <10,000 CFU/mL
- GC/Chlamydia negative
- BV and yeast negative
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing dilation and evacuation for previable preterm 
rupture of membranes. Please see the operative report for full 
details.

Upon arrival to GYN triage on ___, she was afebrile, there 
was no fundal tenderness, the cervical os was visually closed, 
there was pooling with positive ferning and positive nitrazine. 
CBC was normal without evidence of leukocytosis. UA was 
collected which was notable for moderate blood but negative for 
nitrite or leukocyte esterase. UCx revealed <10,000 CFU/mL. 
GC/Chlamydia was collected which was negative. Bedside TAUS 
confirmed IUP at 16 weeks with +FH. She was counseled on 
management options and opted to proceed with D&E. 7 Laminarias 
were placed and she was given 200mg of Doxycycline for ABX 
prophylaxis. Her pain was controlled with toradol as needed. She 
underwent an uncomplicated D&E on ___. 

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with PO oxycodone. Her nausea 
was controlled with zofran. 

By post-operative day 0, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Levothyroxine 175mcg QD
PNV QD
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Premature rupture of membranes at 16weeks 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* You may take ibuprofen and acetaminophen for pain
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* You may eat a regular diet.
* You may walk up and down stairs.
* Nothing in the vagina for 2 weeks

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___